US07157487B2
In THF (70 mL) was dissolved ethyl 4-(2-benzoxazolylamino)phenylacetate (2.08 g, 7.02 mmol), followed by the addition of 0.25N NaOH (42.0 mL, 10.5 mmol) at room temperature. After stirring for 24 hours, the reaction mixture was poured in 1N HCl (50 ml) at 0° C. The crystals thus precipitated were collected by filtration, whereby 4-(2-benzoxazolylamino)phenylacetic acid (1.85 g, 98%) was obtained as a solid.

reactant | ethyl 4-(2-benzoxazolylamino)phenylacetate | 7.02 mmol, 2.08 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)CC(=O)OCC | C17H16N2O3
reactant | NaOH | 10.5 mmol, 0.25N, 42.0 mL | [OH-].[Na+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N, 50 ml | Cl | ClH
product | 4-(2-benzoxazolylamino)phenylacetic acid | 1.85 g, 98% | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)CC(=O)O | C15H12N2O3
